US08703165B2
To a degassed solution of 0.5 g (2,4,6-trimethyl-phenyl)-acetic acid methyl ester and 0.63 g 1-dimethylamino-4-hydroxy-piperidine-4-carboxylic acid methyl ester in 20 ml tetrahydrofuran is added under argon at room temperature 5.72 ml of a 1M potassium tert-butoxide solution in tetrahydrofuran dropwise. The reaction mixture is stirred at room temperature for one hour, and at reflux overnight. The solvent is evaporated, the residue poured into ice/water and the pH adjusted to 5-6 by addition of aqueous 2N hydrochloric acid. The water phase is extracted with diethyl ether, the combined organic layer dried over sodium sulfate, and the solvent evaporated. The crude residue (910 mg) is purified several times by chromatography (normal and reversed phase systems) to yield pure 8-Dimethylamino-3-(2,4,6-trimethyl-phenyl)-1-oxa-8-aza-spiro[4.5]decane-2,4-dione (80 mg) as a solid with mp>200° C. 1H-NMR (DMSO-d6): 6.86 ppm (s, 2H), 2.93 ppm (m, 2H), 2.63 ppm (m, 2H), 2.38 ppm (s, 6H), 2.23 ppm (s, 3H), 2.12 ppm (m, 2H), 2.03 ppm (s, 6H), 1.60 ppm (m, 2H).

reactant | (2,4,6-trimethyl-phenyl)-acetic acid methyl ester | 0.5 g | COC(CC1=C(C=C(C=C1C)C)C)=O | C12H16O2
reactant | 1-dimethylamino-4-hydroxy-piperidine-4-carboxylic acid methyl ester | 0.63 g | COC(=O)C1(CCN(CC1)N(C)C)O | C9H18N2O3
reactant | potassium tert-butoxide | 1M | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-Dimethylamino-3-(2,4,6-trimethyl-phenyl)-1-oxa-8-aza-spiro[4.5]decane-2,4-dione | 80 mg | CN(N1CCC2(C(C(C(O2)=O)C2=C(C=C(C=C2C)C)C)=O)CC1)C | C19H26N2O3
